US08461107B2
Intermediate D10: 3-allyl-2-hydroxy-8-methoxy-4H-pyrido[1,2-a]pyrimidin-4-one
Bis(pentachlorophenyl) allylmalonate (905 mg, 1.412 mmol) and triethylamine (0.359 ml, 2.58 mmol) were added to a slurry of 2-amino-4-methoxypyridine (160 mg, 1.289 mmol) in acetone (6.5 ml). The slurry was stirred for 16 hours, filtered, and washed with acetone to yield the title compound as a white solid (194 mg, 65%). LCMS (ES+) m/z 233.0 (M+H)+.

reactant | Bis(pentachlorophenyl) allylmalonate | 1.412 mmol, 905 mg | C(C=C)C(C(=O)OC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl)C(=O)OC1=C(C(=C(C(=C1Cl)Cl)Cl)Cl)Cl | C18H6Cl10O4
reactant | triethylamine | 2.58 mmol, 0.359 ml | C(C)N(CC)CC | C6H15N
reactant | 2-amino-4-methoxypyridine | 1.289 mmol, 160 mg | NC1=NC=CC(=C1)OC | C6H8N2O
solvent | acetone | 6.5 ml | CC(=O)C | C3H6O
product | 3-allyl-2-hydroxy-8-methoxy-4H-pyrido[1,2-a]pyrimidin-4-one | 194 mg, 65% | C(C=C)C1=C(N=C2N(C1=O)C=CC(=C2)OC)O | C12H12N2O3
